US07183283B2
5-{2-[4-[1-(4-fluoro-2-hydroxy-phenyl)-methanoyl]-piperidine-1-yl]-ethylamino}-2H-piridazine-3-one-dihydrochloride
Into a pressure-tight hydrogenating apparatus 3.5 g (0.009 mole) of 5-{2-[4-(6-fluoro-1,2-benzisoxazole-3-yl)-piperidine-1-yl]-ethylamino}-4-chloro-2H-pyridazine-3-one, 350 ml of a solvent mixture (1:1 mixture of methanol and dichloro methane), 0.4 g (0.01 mole) of sodium hydroxide and 7 g of a palladium charcoal catalyst (composition: 8% of palladium, 28% of carbon, 64% of water) are weighed in. The reaction mixture is stirred at a hydrogen pressure of 10 atm. for 16 hours. Hydrogen is removed from the apparatus. The reaction mixture is heated to reflux temperature and stirred at this temperature for 5 minutes. The mixture is filtered hot and the catalyst is washed five times with 350 ml of a 1:1 mixture of methanol and dichloro methane each. The united mother-lyes are evaporated in vacuo. The crude product is dissolved in a 9:1 mixture of 2-propanol and water under stirring and reflux, filtered and the filtrate is evaporated to 100 ml. The mixture is stirred under cooling with icecold water for half an hour. The precipitated crystals are filtered, suspended in a 9:1 mixture of 2-propanol and water and the suspension is acidified by adding concentrated aqueous hydrochloric acid. To the suspension under reflux a 9:1 mixture of 2-propanol and water is added until a clear solution is obtained. The solution is filtered warm, the filtrate is evaporated to 15 ml, the concentrate is stirred under cooling with icecold water and the crystals are filtered off. Thus 1.95 g of the desired compound are obtained. Yield 50.4%. M.p.: 267–269° C.

reactant | 5-{2-[4-(6-fluoro-1,2-benzisoxazole-3-yl)-piperidine-1-yl]-ethylamino}-4-chloro-2H-pyridazine-3-one | 0.009 mole, 3.5 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCNC2=C(C(NN=C2)=O)Cl)C=C1 | C18H19ClFN5O2
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 0.01 mole, 0.4 g | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium charcoal | 7 g | [Pd] | Pd
solvent | dichloro methane | ClCCl | CH2Cl2
product | 5-{2-[4-[1-(4-fluoro-2-hydroxy-phenyl)-methanoyl]-piperidine-1-yl]-ethylamino}-2H-piridazine-3-one-dihydrochloride | 1.95 g, Yield 50.4% | Cl.Cl.FC1=CC(=C(C=C1)C(=O)C1CCN(CC1)CCNC1=CC(NN=C1)=O)O | InChI=1S/C18H21FN4O3.2ClH/c19-13-1-2-15(16(24)9-13)18(26)12-3-6-23(7-4-12)8-5-20-14-10-17(25)22-21-11-14;;/h1-2,9-12,24H,3-8H2,(H2,20,22,25);2*1H
